US07687487B2
I. 2-chloro-3-methoxypyridine (Formula 2)
To a solution of 2-chloro-3-hydroxypyridine (25 g; 193 mmol) in N,N-dimethylformamide (250 mL) was added sodium methoxide (11.5 g; 212 mmol). The mixture was stirred for 4 hours at room temperature and methyl iodide (24 mL; 386 mmol) was added. The resulting mixture was stirred for another 16 hours. The reaction mixture was quenched with water and extracted with dichloromethane. The combined extracts were washed with water, dried over sodium sulfate and concentrated under reduced pressure to provide product (13 g) as a yellow oil. The aforementioned product, 2-chloro-3-methoxypyridine (2), was used for the next step without further purification.

reactant | 2-chloro-3-hydroxypyridine | 193 mmol, 25 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | sodium methoxide | 212 mmol, 11.5 g | C[O-].[Na+]
reactant | methyl iodide | 386 mmol, 24 mL | CI | CH3I
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 2-chloro-3-methoxypyridine | 13 g | ClC1=NC=CC=C1OC | C6H6ClNO
